US08003649B2
Preparation of 6-[3-(Phenoxymethyl)piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine
Obtained in 60% yield by an analogous method to Example 515, starting from 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine and 3-(phenoxymethyl)piperidine.

reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | 3-(phenoxymethyl)piperidine | O(C1=CC=CC=C1)CC1CNCCC1 | C12H17NO
product | 6-[3-(Phenoxymethyl)piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 60% yield | O(C1=CC=CC=C1)CC1CN(CCC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C18H18F3N5O
